US04689345
6,6-Dichloro-2-(5-methoxyhept-1-yl)bicyclo[3.3.0]octan-7-one {1,1-dichlorohexahydro-4-(5-methoxyheptyl)-2(1H)-pentalenone}
The starting material, 6,6-dichloro-2-(5-methoxyhept-1-yl) bicyclo[3.2.0]heptan-7-one {7,7-dichloro-4-(5-methoxyheptyl)bicyclo [3.2.0]heptan-6-one} (5 g), is dissolved in 100 ml of ether and transferred to a 500 ml, round-bottomed flask. An excess of diazomethane is generated in situ by reacting N-methyl-N-nitroso-p-toluene sulfonamide (60 g) with potassium hydroxide in ethanol. The diazomethane is allowed to react for 50 minutes, after which time acetic acid is added to destroy any remaining diazomethane. The solution is extracted with ether and dried over anhydrous sodium sulfate and yields the crude product as an orange oil.

reactant | 6,6-dichloro-2-(5-methoxyhept-1-yl) bicyclo[3.2.0]heptan-7-one | ClC1(C2CCC(C2C1=O)CCCCC(CC)OC)Cl | C15H24Cl2O2
reactant | 7,7-dichloro-4-(5-methoxyheptyl)bicyclo [3.2.0]heptan-6-one | ClC1(C(C2C(CCC12)CCCCC(CC)OC)=O)Cl | C15H24Cl2O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-methyl-N-nitroso-p-toluene sulfonamide | 60 g | CN(S(=O)(=O)C1=CC=C(C=C1)C)N=O | C8H10N2O3S
reactant | potassium hydroxide | [OH-].[K+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,6-Dichloro-2-(5-methoxyhept-1-yl)bicyclo[3.3.0]octan-7-one | ClC1(C2CCC(C2CC1=O)CCCCC(CC)OC)Cl | C16H26Cl2O2
